US06730627B1
Preparation of Hafnium Chloride 2-Phenylbutyrate
16.4 g (51.1 mmoles) of hafnium tetrachloride (HfCl4) are suspended in 200 ml of toluene in a stirred 500 ml reactor. 16.8 g (102.2 mmoles) of 2-phenylbutyric acid dissolved in 100 ml of toluene, with a molar ratio 2-phenylbutyric acid/HfCl4 of 2.0, are added, under stirring, to the suspension, kept at room temperature. At the end of the addition, nitrogen is bubbled in for 3 hours, at room temperature, to facilitate the removal of hydrochloric acid. After this period, the suspension is filtered while hot and a solution is obtained which shows the following analysis: Hf=812 mmoles/l, Cl=1476 mmoles/l, with an atomic ratio Cl/Hf of 1.8. The yield in hafnium in solution is equal to 95.1% with respect to the initial hafnium.

reactant | hafnium tetrachloride | 51.1 mmoles, 16.4 g | [Cl-].[Cl-].[Cl-].[Cl-].[Hf+4]
reactant | 2-phenylbutyric acid | 102.2 mmoles, 16.8 g | C1(=CC=CC=C1)C(C(=O)O)CC | C10H12O2
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | hafnium | [Hf] | Hf
product | Hafnium Chloride 2-Phenylbutyrate | C1(=CC=CC=C1)C(C(=O)[O-])CC.[Cl-].[Hf+2] | InChI=1S/C10H12O2.ClH.Hf/c1-2-9(10(11)12)8-6-4-3-5-7-8;;/h3-7,9H,2H2,1H3,(H,11,12);1H;/q;;+2/p-2
